US04390679
Bis(p-aminocyclohexyl)methane phthalamide was prepared by the aqueous reaction of bis(p-aminocyclohexyl)methane with phthalimide, according to a procedure similar to that published by Spring and Woods noted hereinabove. Thus, an emulsion of the amine in water was made using vigorous stirring. Phthalimide (1.0 mole per 2.4 moles of amine) was finely grounded and added to the emulsion at room temperature within a 10-minute period. The mixture was stirred for an additional 40 minutes and poured into a separatory funnel and extracted with chloroform. The chloroform solution was dried over magnesium sulfate, filtered and stripped. The product was washed with hexane and with anhydrous ethyl ether and then stripped in a vacuum oven.

reactant | bis(p-aminocyclohexyl)methane | NC1CCC(CC1)CC1CCC(CC1)N | C13H26N2
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | Phthalimide | 1.0 mole | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | water | O | H2O
product | Bis(p-aminocyclohexyl)methane phthalamide | 28% yield | C(C=1C(C(=O)N)=CC=CC1)(=O)N.NC1CCC(CC1)CC1CCC(CC1)N | InChI=1S/C13H26N2.C8H8N2O2/c14-12-5-1-10(2-6-12)9-11-3-7-13(15)8-4-11;9-7(11)5-3-1-2-4-6(5)8(10)12/h10-13H,1-9,14-15H2;1-4H,(H2,9,11)(H2,10,12)
